US04833136
7-(2-Hydroxyethylamino)-2,3,5-trimethylpyrazolo[4,3-b]pyridine (E9)
The title compound was prepared from ethanolamine and 7-chloro-2,3,5-trimethylpyrazolo[4,3-b]pyridine in an analogous manner to the preparation of Example 2 giving a white crystalline solid, m.p. 186°-189° C. after recrystallisation from ether/methanol.

reactant | ethanolamine | C(O)CN | C2H7NO
reactant | 7-chloro-2,3,5-trimethylpyrazolo[4,3-b]pyridine | ClC=1C=2C(N=C(C1)C)=C(N(N2)C)C | C9H10ClN3
product | 7-(2-Hydroxyethylamino)-2,3,5-trimethylpyrazolo[4,3-b]pyridine | OCCNC=1C=2C(N=C(C1)C)=C(N(N2)C)C | C11H16N4O
